US07585886B2
A 262 mg portion of methyl 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]hexanoate was dissolved in 3 ml of methanol and 3 ml of THF, mixed with 2 ml of 1 M sodium hydroxide aqueous solution at room temperature and stirred for 7Hours. The reaction solution was washed with diethyl ether, and 1 M hydrochloric acid was added to the water layer until it became pH 3. After its extraction with diethyl ether, the organic layer was dried with anhydrous sodium sulfate and concentrated under a reduced pressure to obtain 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]hexanoic acid as a crude product. The thus obtained crude product was dissolved in 3.0 ml of 4 M hydrogen chloride/1,4-dioxane solution at room temperature, and the reaction solution was concentrated under a reduced pressure. THF and diethyl ether were added to the thus obtained residue, and the resulting precipitate was collected by filtration and dried under a reduced pressure to obtain 123 mg of 6-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]hexanoic acid dihydrochloride as a white solid.

reactant | methyl 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]hexanoate | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)CCCCCC(=O)OC | C35H46N2O4
reactant | sodium hydroxide | 1 M, 2 ml | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]hexanoic acid | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)CCCCCC(=O)O | C34H44N2O4
